US06780883B2
p-Isopropyl-N-3-pyridyl-benzamide
This compound was synthesized by the same procedure as for Example 15 except cuminic acid and 3-aminopyridine were used instead of 2-napthoic acid and 4-iodoaniline. White needles. M+241.3

reactant | cuminic acid | OC(=O)C1=CC=C(C(C)C)C=C1 | C10H12O2
reactant | 3-aminopyridine | NC=1C=NC=CC1 | C5H6N2
reactant | 2-napthoic acid | C1=C(C=CC2=CC=CC=C12)C(=O)O | C11H8O2
reactant | 4-iodoaniline | IC1=CC=C(N)C=C1 | C6H6IN
product | p-Isopropyl-N-3-pyridyl-benzamide | C(C)(C)C1=CC=C(C(=O)NC=2C=NC=CC2)C=C1 | C15H16N2O
